US04783453
A solution of p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate (3.3 mg, 10 micromol) in dioxane (300 microliter), deionized water (180 microliter), absolute ethanol (25 μl), and aqueous sodium bicarbonate solution (20 microliter of 0.5M) was shaken with 10% palladium on charcoal (3.3 mg) under hydrogen (50 psig) at ambient temperature for 40 min. The mixture was centrifuged and the pellet was washed with deionzed water (3×0.3 ml). The combined supernates were extracted with ethyl acetate (3×0.4 ml) and lyophilized to provide sodium 2-amino-carbapen-2-em-3-carboxylate.

reactant | p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate | 10 micromol, 3.3 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
reactant | sodium bicarbonate | 0.5M, 20 microliter | C([O-])(O)=O.[Na+]
solvent | dioxane | 300 microliter | O1CCOCC1 | C4H8O2
solvent | water | 180 microliter | O | H2O
solvent | ethanol | 25 μl | C(C)O | C2H6O
catalyst | palladium on charcoal | 3.3 mg | [Pd] | Pd
product | sodium 2-amino-carbapen-2-em-3-carboxylate | NC=1C[C@H]2N(C1C(=O)[O-])C(C2)=O.[Na+] | InChI=1S/C7H8N2O3.Na/c8-4-1-3-2-5(10)9(3)6(4)7(11)12;/h3H,1-2,8H2,(H,11,12);/q;+1/p-1/t3-;/m1./s1
